US07432258B2
d) Methyl 2-(4-biphenylyl)alaninate
HCl (7.2 ml, 4M in dioxane) was added dropwise to a solution of 1,1-dimethylethyl 2-(4-biphenylyl)-N-{[(1,1-dimethylethyl)oxy]carbonyl}alaninate (1.14 g, 2.87 mmol) in CH2Cl2 (10 ml) at 0° C. under argon. The resulting mix was stirred at room temperature for 16 h. The reaction mixture was concentrated leaving a white solid which was refluxed in methanolic HCl (30 mL) for 16 h. The reaction mixture was concentrated and the residue was taken into Na2CO3 (10%, 100 ml) and the product was extracted by EtOAc (3×20 ml). The combined extracts were washed by water then brine, dried and concentrated left 830 mg as a clear oil. MS(ES) m/e 256.2 [M+H]+.

reactant | 1,1-dimethylethyl 2-(4-biphenylyl)-N-{[(1,1-dimethylethyl)oxy]carbonyl}alaninate | 2.87 mmol, 1.14 g | C1(=CC=C(C=C1)[C@](NC(=O)OC(C)(C)C)(C)C(=O)OC(C)(C)C)C1=CC=CC=C1 | C24H31NO4
solvent | CH2Cl2 | 10 ml | C(Cl)Cl | CH2Cl2
solvent | HCl | 30 mL | Cl | ClH
solvent | HCl | 4M, 7.2 ml | Cl | ClH
product | Methyl 2-(4-biphenylyl)alaninate | C1(=CC=C(C=C1)[C@](N)(C)C(=O)OC)C1=CC=CC=C1 | C16H17NO2
